US04780477
To a solution of 5.0 g of N-isopropylcyclohexylamine and 4.3 g of triethylamine in 100 ml of dry dichloromethane was added dropwise 5.8 g of acetoxyacetyl chloride with stirring under ice-cooling, and the mixture was stirred for 16 hours at room temperature. The reaction mixture was successively washed with an aqueous sodium bicarbonate solution and water, dried under reduced pressure to obtain 8.5 g of 2-acetoxy-N-cyclohexyl-N-isopropylacetamide in an oil.

reactant | N-isopropylcyclohexylamine | 5.0 g | C(C)(C)NC1CCCCC1 | C9H19N
reactant | triethylamine | 4.3 g | C(C)N(CC)CC | C6H15N
reactant | acetoxyacetyl chloride | 5.8 g | C(C)(=O)OCC(=O)Cl | C4H5ClO3
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-acetoxy-N-cyclohexyl-N-isopropylacetamide | 8.5 g | C(C)(=O)OCC(=O)N(C(C)C)C1CCCCC1 | C13H23NO3
